US05145899
Preparation of 1,3-bis(4-phenoxybenzoyl)benzene (DID)
Into a 2 liter flask equipped with a mechanical stirrer, thermometer, and nitrogen inlet and outlet, were charged 210 g (1.2338 moles) of diphenyl ether, 83.9 g (0.4132 moles) of isophthaloyl chloride, and 970 ml of methylene chloride. The solution was cooled to -5° C. by means of and acetone ice bath and then aluminum chloride (240 g, 1.8005 mole) was added in six 40 g portions. The temperature rose slightly during the addition of aluminum chloride and after the final addition the temperature was stabilized and held at 0° C. for thirty minutes. The solution was subsequently warmed to room temperature and held there for 1 hour. Afterwards, the solution was very slowly poured into agitated chilled demineralized water to deactivate the aluminum chloride (maximum water temperature reached was 28° C.). After stirring for 10 minutes, stirring was stopped and the very acidic upper layer was decanted off. The organic layer was subsequently washed several times with fresh dimeneralized water to remove the acid and filtered to remove solid impurities, e.g., elemental aluminum). Afterwards, methanol was slowly added to the organic layer (about 1/1 on a volume basis) with stirring and the product precipitated as short, white needles. Further purification was undertaken by slurrying 3X in isopropanol followed by filtration and drying. The short needles gave a DSC melting point (20° C./min) of 124° C.

reactant | diphenyl ether | 1.2338 moles, 210 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | isophthaloyl chloride | 0.4132 moles, 83.9 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | methylene chloride | 970 ml | C(Cl)Cl | CH2Cl2
reactant | aluminum chloride | 1.8005 mole, 240 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | O | H2O
product | 1,3-bis(4-phenoxybenzoyl)benzene | O(C1=CC=CC=C1)C1=CC=C(C(=O)C2=CC(=CC=C2)C(C2=CC=C(C=C2)OC2=CC=CC=C2)=O)C=C1 | C32H22O4
